US04374843
9.7 g (0.05 mol) of 3-bromo-4-ethoxy-3-buten-2-one was combined with 5.53 (0.05 mol) of hydroxyacetamidine hydrochloride in 100 ml acetone to form a slurry. To the slurry at 25° was added 11.5 g (0.1 mol) of 1,1,3,3-tetramethylguanidine over a period of 5 minutes. After stirring for 48 hours the slurry was filtered and the mother liquors were concentrated in vacuo to an oil which was chromatographed on silica gel 60 (E. Merck) using chloroform as eluent to give 1.48 g (21%) of 2-hydroxymethyl-4-acetylimidazole, mp 147°-148°. nmr (DMSO-d6) (δ): 7.73 (s, 1H); 5.46 (very broad s, 1H); 4.5 (broad s, 2H); 2.4 (s, 3H).

reactant | 3-bromo-4-ethoxy-3-buten-2-one | 0.05 mol, 9.7 g | BrC(C(C)=O)=COCC | C6H9BrO2
reactant | hydroxyacetamidine hydrochloride | Cl.OCC(=N)N
reactant | 1,1,3,3-tetramethylguanidine | 0.1 mol, 11.5 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-hydroxymethyl-4-acetylimidazole | 1.48 g, 21% | OCC=1NC=C(N1)C(C)=O | C6H8N2O2
